US08008307B2
Step d: 5-(2-aminoethyl)-6-chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]pyridin-4-amine
2-(2-{4-chloro-6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-5-yl}ethyl)-1H-isoindole-1,3(2H)-dione (3.50 g, 8.32 mmol) was suspended in ethanol (102 mL) and hydrazine hydrate (1.62 mL, 33.3 mmol) was added. The mixture was heated to reflux for 1 hour. At that time, LCMS indicated complete conversion. The mixture was cooled to 23° C., crystals were filtered off, the residue was evaporated in vacuo and purified using chromatography on silica gel using gradient 0 to 20% MeOH in methylene chloride to afford the title compound (1.20 g, 50%). LC/MS: Rt=1.29 min, ES+ 289 (AA standard).

reactant | 2-(2-{4-chloro-6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-5-yl}ethyl)-1H-isoindole-1,3(2H)-dione | 8.32 mmol, 3.50 g | ClC1=NC=NC(=C1CCN1C(C2=CC=CC=C2C1=O)=O)N[C@H]1CCC2=CC=CC=C12 | C23H19ClN4O2
reactant | hydrazine hydrate | 33.3 mmol, 1.62 mL | O.NN
reactant | ethanol | 102 mL | C(C)O | C2H6O
product | 5-(2-aminoethyl)-6-chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]pyridin-4-amine | 1.20 g, 50% | NCCC=1C(=CC=NC1Cl)N[C@H]1CCC2=CC=CC=C12 | C16H18ClN3
